US07268230B2
A mixture of 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-6-methoxyquinazoline (12.24 g, 33.5 mmol), 4-fluoro-5-hydroxy-2-methylindole (5.54 g, 33.5 mmol), (prepared as described for the starting material in Example 1), and potassium carbonate (4.64 g, 33.5 mmol) was heated in N,N-dimethylacetamide (150 ml) at 85° C. for 4 hours. 4-Fluoro-5-hydroxy-2-methylindole (33 mg, 0.2 mmol) and potassium carbonate (108 mg, 57%) were added and the mixture heated for a further 1 hour at 85° C. and then stirred at ambient temperature overnight. The mixture was filtered and concentrated under reduced pressure. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5) to give a white solid which was suspended in acetone (150 ml) and heated at reflux for 1 hour. After cooling the mixture was filtered and the solid dried in air to give 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline (10 g, 60%) as a white solid.

reactant | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-6-methoxyquinazoline | 33.5 mmol, 12.24 g | C(C)(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)Cl)OC | C17H21ClN4O3
reactant | 4-fluoro-5-hydroxy-2-methylindole | 33.5 mmol, 5.54 g | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
reactant | potassium carbonate | 33.5 mmol, 4.64 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylacetamide | 150 ml | CN(C(C)=O)C | C4H9NO
solvent | acetone | 150 ml | CC(=O)C | C3H6O
catalyst | 4-Fluoro-5-hydroxy-2-methylindole | 0.2 mmol, 33 mg | FC1=C2C=C(NC2=CC=C1O)C | C9H8FNO
catalyst | potassium carbonate | 108 mg | C([O-])([O-])=O.[K+].[K+]
product | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-[(4-fluoro-2-methyl-1H-indol-5-yl)oxy]-6-methoxyquinazoline | 10 g, 60% | C(C)(=O)N1CCN(CC1)CCOC1=C(C=C2C(=NC=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C26H28FN5O4
